US05756497
To a stirred suspension of LAH (0.64 g, 17.0 mmol) in THF (30 mL) at -78° C. was added dropwise methyl 4-trifluoromethylnicotinate (1.74 g, 8.48 mmol) in THF (20 mL). The mixture was stirred for 1 h then carefully quenched with aqueous NaHCO3 (80 mL) and extracted with CH2Cl2 (3×100 mL). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give 3-hydroxymethyl-4-trifluoromethylpyridine as an oil (TLC: Rf = 0.35 (1:1 hexane:EtOAc)).

reactant | LAH | 17.0 mmol, 0.64 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 4-trifluoromethylnicotinate | 8.48 mmol, 1.74 g | FC(C1=CC=NC=C1C(=O)OC)(F)F | C8H6F3NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-hydroxymethyl-4-trifluoromethylpyridine | OCC=1C=NC=CC1C(F)(F)F | C7H6F3NO
